US09359352B2
Synthesis of 1-(4-methoxybenzyl)-7-(3-oxoazetidin-1-yl)-1,5-naphthyridin-2(1H)-one (C-7)
To a mixture of 1-(4-methoxybenzyl)-7-(3-hydroxyazetidin-1-yl)-1,5-naphthyridin-2(1H)-one (C-6) (2.637 g, 7.81 mmol, 1.0 eq) in DMSO (30 mL) was added Et3N (9 mL, 64.82 mmol, 8.3 eq) and a solution of pyridine sulfur trioxide (8.71 g, 54.7 mmol, 7.0 eq) in DMSO (30 mL) sequentially. The resulting mixture was stirred at RT for 1 h. The reaction was complete based on TLC analysis. The mixture was poured into ice-water (100 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography on silica gel (1:1 to 1:3 petroether/ethyl acetate and then 80:1DCM/MeOH) to afford the desired product 1-(4-methoxybenzyl)-7-(3-oxoazetidin-1-yl)-1,5-naphthyridin-2(1H)-one (C-7) (2.6 g, 99% yield) as a pale solid. HNMR (300 MHz, DMSO-d6) δ: 7.93 (s, 1H), 7.82 (d, J=9.6 Hz, 1H), 7.21 (d, J=9 Hz, 2H), 6.84 (m, 3H), 6.60 (d, J=9.6 Hz, 1H), 5.37 (s, 2H), 4.79 (s, 4H), 3.65 (s, 3H); ESI-MS m/z: 336.1 [M+H]+.

reactant | 1-(4-methoxybenzyl)-7-(3-hydroxyazetidin-1-yl)-1,5-naphthyridin-2(1H)-one | 7.81 mmol, 2.637 g, 1.0 eq | COC1=CC=C(CN2C(C=CC3=NC=C(C=C23)N2CC(C2)O)=O)C=C1 | C19H19N3O3
reactant | Et3N | 64.82 mmol, 9 mL, 8.3 eq | CCN(CC)CC | C6H15N
reactant | pyridine sulfur trioxide | 54.7 mmol, 8.71 g, 7.0 eq | S(=O)(=O)=O.N1=CC=CC=C1
reactant | MeOH | CO | CH4O
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 1-(4-methoxybenzyl)-7-(3-oxoazetidin-1-yl)-1,5-naphthyridin-2(1H)-one | 2.6 g, 99% yield | COC1=CC=C(CN2C(C=CC3=NC=C(C=C23)N2CC(C2)=O)=O)C=C1 | C19H17N3O3
